US07750003B2
4-[4-[2-(4-Fluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline
Dichlorobis(triphenylphosphine)palladium(II) (170 mg, 0.24 mmol) was added to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.376 g, 6.28 mmol) and 2-chloro-4-[2-(4-fluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine (2 g, 4.83 mmol), and sodium carbonate (5 mL, 10.00 mmol) in 18% DMF in DME:water:ethanol (7:3:2) (20 mL). The resulting solution was stirred at 90° C. for 4 hours. The reaction mixture was diluted with ethyl acetate (20 mL), and washed with water (2×20 mL1). The organic layer was dried (MgSO4), filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 5 to 60% ethyl acetate in isohexane, to give the desired material as a cream solid (1.80 g).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 6.28 mmol, 1.376 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | 2-chloro-4-[2-(4-fluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine | 4.83 mmol, 2 g | ClC1=NC(=CC(=N1)C(C)(C)S(=O)(=O)C1=CC=C(C=C1)F)N1[C@H](COCC1)C | C18H21ClFN3O3S
reactant | sodium carbonate | 10.00 mmol, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DME water ethanol | 20 mL | COCCOC.O.C(C)O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.24 mmol, 170 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[4-[2-(4-Fluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 1.80 g | FC1=CC=C(C=C1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C24H27FN4O3S
